US07238758B2
Diethylaminotriethoxysilane was synthesized as Example 1 in the following manner. First, into a four-necked flask (volume of 1 L) equipped with a magnet seal agitator and a dropping funnel, a 100 mL of toluene, a 10 mL of tetrahydro furan, and a 14.6 g (0.2 mol) of diethylamine were introduced and then mixed and agitated. A Grignard reagent (titer=1.71 mol/L) is on the other hand supplied by 129 mL (0.22 mol) into the dropping funnel. Thereafter, while agitating, the Grignard reagent is dropped from the dropping funnel into the flask at room temperature (air-cooling), spending 30 minutes. After completion of dropping, agitating was performed at 60° C. for one hour for Grignard exchange reaction. Then, a 41.7 g (0.2 mol) of tetraethoxysilane previously introduced into the dropping funnel is dropped into the flask, spending 15 minutes. After completion of dropping, a reaction was performed at 60° C. for 2 hours. At this moment, a solid of magnesium ethoxy chloride deposited in the flask. The reacted solution was partly extracted to confirm the generation of the target product by gas chromatography. Then, in nitrogen ambient, the reacted solution in the flask was entirely transferred therefrom to a container equipped with a G4 glass filter for pressure filtration with low-pressure nitrogen (0.01 MPa). The filtered residue (magnesium ethoxy chloride) was cleansed and filtered with toluene repeatedly until the target product could not be confirmed in the filtrate. The filtrate and the mixed solution of the filtered residue and the cleanser were condensed under reduced pressure to settle and remove solvent constituents such as toluene, and subsequently distilled and purified to restore the target product. The target product is a liquid with a colorless transparent appearance, which has a boiling point of 57.5° C./5 mmHg, and a GC purity of 98.0%. The target product is identified by gas-mass chromatography, of which mass spectrum is shown in FIG. 1, and NMR is shown in FIG. 2.

reactant | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
reactant | diethylamine | 0.2 mol, 14.6 g | C(C)NCC | C4H11N
reactant | tetraethoxysilane | 0.2 mol, 41.7 g | C(C)O[Si](OCC)(OCC)OCC | C8H20O4Si
reactant | magnesium ethoxy chloride | C(C)OCl.[Mg]
solvent | tetrahydro furan | 10 mL | O1CCCC1 | C4H8O
product | Diethylaminotriethoxysilane | C(C)N(CC)[Si](OCC)(OCC)OCC | C10H25NO3Si
